* C:\Users\Windows PC\Desktop\Badgerloop\git_repos\solar_car_hardware\MPPT\design\Simulation\solar_cell_boost_converter.asc
R1 N001 Array_out 0.010
D1 N001 0 DiodeSolarCell
L1 Array_out N002 60µH
M1 N002 PWM_IN 0 0 BSP89
D2 N002 V_out D
C1 V_out 0 100µF
V1 PWM_IN 0 PULSE(0 20 0 0 0 1.75e-5 2e-5 10000)
C2 Array_out 0 100µF
I1 0 N001 7A
V2 V_out 0 120
I2 V_out 0 10
.model D D
.lib C:\Users\Windows PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Windows PC\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.1 0
.model DiodeSolarCell D LEVEL=1 IS=8.0411e-10 N=72.2592 EG=80.2077 XTI=216.7776
* MPP for this solar model is at 37.7V, 6.5A load
.backanno
.end
